US06610723B2
1-Quinolin-8-yl-1H-imidazole-4-carboxylic Acid Ethyl Ester
Following the general method described in example 384, 8-aminoquinoline was reacted with triethyl orthoformate, ethyl nitroacetate and acetic acid followed by treatment with triethyl orthoformate, iron and acetic acid. After workup and chromatography the title compound was obtained as a light brown crystalline solid. Mp.>92° C. dec. (AcOEt/hexane), MS: m/e=267 (M+).

reactant | 8-aminoquinoline | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl nitroacetate | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 1-Quinolin-8-yl-1H-imidazole-4-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CN(C1)C=1C=CC=C2C=CC=NC12 | C15H13N3O2
